US07211192B2
1,4-bis(triethoxysilyl)benzene.
A mixture of magnesium turnings (15 g) and TEOS (450 mL, 2 mol) in THF (300 mL) were placed under nitrogen in a 1 L three-neck round bottom flask equipped with magnetic stir bar, condenser, and addition funnel. A small crystal of iodine was added and the mixture was brought to reflux. A solution of 1,4-dibromobenzene (48 g, 204 mmol) in THF (100 mL) was added dropwise over 2 h. Within 30 min of initiating the addition, the reaction became mildly exothermic. The reaction mixture was kept at reflux for 1 h after the completion of the addition of dibromide. The gray-green mixture was allowed to cool to room temperature before the THF was removed in vacuo. Hexane (200 mL) was added to precipitate any remaining magnesium salts in solution and the mixture was quickly filtered under nitrogen to produce a clear, light brown solution. Hexane was removed in vacuo. The product was purified by fractional distillation. The product was recovered as a clear liquid at 130–5° C. (0.2 mmHg) in 43–47% yield. 1H NMR (500 MHz, CDCl3) δ 7.67 (s, 4H, ArH), 3.86 (q, J=7.00 Hz, 12H, OCH2CH3), 1.23 (t, J=7.00 Hz, 18H, ArH); 13C NMR (125 MHz, CDCl3) δ 133.25,57.98, 17.43; 29Si NMR (99 MHz, CDCl3) δ−58.25; MS m/e calc'd for CI (M) C18H34Si2O6: 402.1894, found 402.1886.

reactant | magnesium | 15 g | [Mg] | Mg
reactant | TEOS | 2 mol, 450 mL | CCO[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | iodine | II | I2
reactant | 1,4-dibromobenzene | 204 mmol, 48 g | BrC1=CC=C(C=C1)Br | C6H4Br2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1,4-bis(triethoxysilyl)benzene | 43–47% yield | C(C)O[Si](C1=CC=C(C=C1)[Si](OCC)(OCC)OCC)(OCC)OCC | C18H34O6Si2
